US04661636
2.84 g (0.01 mol) of 4-(1,1-dimethylethyl)-2-dimethylaminomethyleneaminosulfonylphenol are boiled under reflux with 1.4 g of urotropine in 10 ml of trifluoroacetic acid for 6 h. The mixture is poured onto ice-water, and the rubber-like mass which has separated out is taken up in ether, the solution is washed to neutrality and the solvent is removed in vacuo. The residue is chromatographed on silica gel using ethyl acetate/toluene 4:1 as the eluting agent. 2-formyl-4-(1,1-dimethylethyl)-6-dimethylaminomethyleneaminosulfonylphenol of melting point 182°-183° C. is obtained, and this is immediately dissolved in 2N sodium hydroxide solution. The solution is left on a steam bath for 30 minutes, and then the solution is acidified to pH 2-3 with 2N hydrochloric acid, and filtered with suction.

reactant | 4-(1,1-dimethylethyl)-2-dimethylaminomethyleneaminosulfonylphenol | 0.01 mol, 2.84 g | CC(C)(C)C1=CC(=C(C=C1)O)S(=O)(=O)N=CN(C)C | C13H20N2O3S
reactant | urotropine | 1.4 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-formyl-4-(1,1-dimethylethyl)-6-dimethylaminomethyleneaminosulfonylphenol | C(=O)C1=C(C(=CC(=C1)C(C)(C)C)S(=O)(=O)N=CN(C)C)O | C14H20N2O4S
